US07211601B2
(2S,4EZ)-1-[(3′,4′-dichloro[1,1′-biphenyl]-4-yl)carbonyl]-N-[(2RS)-2-hydroxy-2-(4-hydroxyphenyl)ethyl]-4-(methoxyimino)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 3′,4′-dichloro[1,1′-biphenyl]-4-carboxylic acid, and 4-[(1RS)-2-amino-1-hydroxyethyl]phenol, the title compound was obtained in 86% purity by HPLC. MS(ESI+): m/z=543.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 3′,4′-dichloro[1,1′-biphenyl]-4-carboxylic acid | ClC=1C=C(C=CC1Cl)C1=CC=C(C=C1)C(=O)O | C13H8Cl2O2
reactant | 4-[(1RS)-2-amino-1-hydroxyethyl]phenol | NCC(O)C1=CC=C(C=C1)O | C8H11NO2
product | (2S,4EZ)-1-[(3′,4′-dichloro[1,1′-biphenyl]-4-yl)carbonyl]-N-[(2RS)-2-hydroxy-2-(4-hydroxyphenyl)ethyl]-4-(methoxyimino)-2-pyrrolidinecarboxamide | ClC=1C=C(C=CC1Cl)C1=CC=C(C=C1)C(=O)N1[C@@H](CC(C1)=NOC)C(=O)NCC(C1=CC=C(C=C1)O)O | C27H25Cl2N3O5
